US07238716B2
To a mixture of 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole (4.52 g), 2-(2-hydroxy-1-naphthyl)acetonitrile (0.58 g) and N,N-dimethylformamide (30 mL) was added sodium hydride (60%, oil, 0.14 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. To the reaction mixture was added water and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The obtained residue was subjected to silica gel column chromatography to give crystals (1.11 g, 76%) of 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-1-naphthyl]acetonitrile from a fraction eluted with ethyl acetate-hexane (1:2, v/v). Recrystallization from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 178-179° C.

reactant | 4-(4-chloromethylphenoxymethyl)-5-methyl-2-phenyloxazole | 4.52 g | ClCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16ClNO2
reactant | 2-(2-hydroxy-1-naphthyl)acetonitrile | 0.58 g | OC1=C(C2=CC=CC=C2C=C1)CC#N | C12H9NO
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.14 g | [H-].[Na+]
solvent | water | O | H2O
product | 2-[2-[4-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzyloxy]-1-naphthyl]acetonitrile | 1.11 g, 76% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(COC2=C(C3=CC=CC=C3C=C2)CC#N)C=C1 | C30H24N2O3
